US07723330B2
Step E: Preparation of 4-chloro-1-(4-methoxybenzyl)-3-methyl-1H-pyrazolo[3,4-b]pyridine:
To a 500 mL round bottom flask was added phosphorous oxychloride (6.63 mL, 72.4 mmol) followed by dichloroethane (120 mL). 1-(4-Methoxybenzyl)-3-methyl-1H-pyrazolo[3,4-b]pyridin-4-ol (6.5 g, 24.1 mmol), prepared according to the procedure of Example 5, Step B, was added directly as a solid. The reaction mixture was stirred for 1 hour at refluxing temperature (115° C.) under N2. The reaction mixture was cooled to room temperature and the solvent was evaporated under reduce pressure. Any remaining solvent was removed by toluene azeotrope (2×50 mL). The resulting crude material was dissolved in dichloromethane (50 mL), and saturated NaHCO3 was added slowly until vigorous bubbling ceased. The biphasic mixture was diluted with additional dichloromethane and aqueous sodium bicarbonate and the organic layer washed separated, washed with brine, dried over sodium sulfate and evaporated to afford 6.6 g of off-white solid. The crude was chromatographed on Silica (Biotage 40M) loading with dichloromethane and eluting with 80/20 hexanes/ethyl acetate to obtain the product (6.0 g, 87%) as a white crystalline solid. 1H NMR (400 MHz, DMSO-d6) δ 8.41 (d, J=5.1 Hz, 1H), 7.24 (d, J=5.1 Hz, 1H), 7.15 (d, J=9.0 Hz, 2H), 6.80 (d, J=9.0 Hz, 2H), 5.46 (s, 2H), 3.64 (s, 3H), 2.57 (s, 3H).

reactant | phosphorous oxychloride | 72.4 mmol, 6.63 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1-(4-Methoxybenzyl)-3-methyl-1H-pyrazolo[3,4-b]pyridin-4-ol | 24.1 mmol, 6.5 g | COC1=CC=C(CN2N=C(C3=C2N=CC=C3O)C)C=C1 | C15H15N3O2
solvent | dichloroethane | 120 mL | ClC(C)Cl | C2H4Cl2
product | 4-chloro-1-(4-methoxybenzyl)-3-methyl-1H-pyrazolo[3,4-b]pyridine | 6.6 g | ClC1=C2C(=NC=C1)N(N=C2C)CC2=CC=C(C=C2)OC | C15H14ClN3O
